US07119120B2
To a 40 mL vial containing a stirring bar, 1-(2-Diethylphosphono-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea (1.2 g, 2.42 mmol) was added along with 15 mL of CHCl3. This was cooled in an ice bath and then bromotrimethylsilane (5.0 g, 32.7 mmol) was added slowly under N2 while stirring. The bath was removed after the addition and then the vial was sealed and heated at 40° C. for 2 days. The resulting solution was cooled in an ice bath and water was added dropwise (5 mL) followed by 10 mL of isopropanol. After 10 minutes the bath was removed and the reaction was stirred at room temperature for one day. The mixture was then diluted with 50 mL water and concentrated until a precipitate formed. The precipitate was filtered and then recrystallized from ethyl acetate to give 750 mg of 1-(2-Phosphono-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea as a white solid. 1H-NMR (400 MHz, DMSO-D6): δ=7.27 (d, 8.0 Hz, 1H, CHCHCCF3), 7.43 (m, 1H, CHCHCCF3), 7.60 (m, 2H, CHCBrCH), 7.70 (dd, 15 Hz, 2H2, 1H, BsCCHCP) 7.90 (s, 1H, CHCF3), 8.05 (m, 1H). 31P (400 Mz, CDCl3) δ=13.41 (s).

reactant | 1-(2-Diethylphosphono-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea | 2.42 mmol, 1.2 g | C(C)OP(=O)(OCC)C1=C(C=CC(=C1)Br)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C18H19BrF3N2O4P
reactant | bromotrimethylsilane | 32.7 mmol, 5.0 g | Br[Si](C)(C)C | C3H9BrSi
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Phosphono-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea | 750 mg | P(=O)(O)(O)C1=C(C=CC(=C1)Br)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C14H11BrF3N2O4P
